US08017705B2
(ii) Synthesis of 2,7-diphenyl-3,6-di-tert-butyl-fluorene
In a nitrogen atmosphere, 8.15 g (18.7 mmol) of 2,7-dibromo-3,6-di-tert-butyl-fluorene and 1.08 g (0.93 mmol) of Pd(PPh3) were added to a 300 mL three-neck flask, and then 120 mL of dehydrated 1,2-dimethoxyethane was added and the mixture was stirred at room temperature for 20 min. To the solution obtained, 20 mL of ethanol solution containing 5.01 g (41.1 mmol) of phenyl boric acid was added and the mixture was stirred at room temperature for 20 min, and then 37.4 mL (74.8 mmol) of a 2.0 mol/L sodium carbonate aqueous solution was added. Thereafter, the mixture was refluxed while heating for 18 hr and cooled spontaneously, and then quenched with dilute hydrochloric acid in an ice bath. The soluble part was extracted by adding ether, and the organic layer was washed with a saturated sodium hydrogen carbonate aqueous solution twice, with water twice and with saturated brine twice, and then dried with magnesium sulfate. Thereafter, the solvent was distilled off and the resulting solid was separated with a column chromatography to prepare an aimed product (in an amount of 4.36 g in a yield of 54%). The identification of the aimed product was carried out by 1H-NMR and FD-MS spectrum.

reactant | 2,7-dibromo-3,6-di-tert-butyl-fluorene | 18.7 mmol, 8.15 g | BrC1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)Br | C21H24Br2
reactant | 1,2-dimethoxyethane | 120 mL | COCCOC | C4H10O2
reactant | phenyl boric acid | 41.1 mmol, 5.01 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | sodium carbonate | 2.0 mol/L | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2,7-diphenyl-3,6-di-tert-butyl-fluorene | yield of 54% | C1(=CC=CC=C1)C1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C33H34
